US07534797B2
7-(3-tert-Butyl-8-chloroimidazo[1,5-a]pyrazin-1-yl)-2-phenylquinoline
To a solution of N-[(3-chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methyl]-2,2-dimethylpropionamide (264 mg, 0.612 mmol) in THF (3 mL), cooled to 0° C., KOtBu (800 μL, 1 M, 0.796 mmol) was added, the cooling bath was removed, and the reaction mixture stirred at ambient temperature for 30 min, under N2. THF was removed in vacuo, POCl3 (25 mL, 42 g, 0.273 mol) was added to the residue, and the reaction mixture was vortexed at 70° C., under N2, for 5 d. POCl3 was evaporated (min. 2 h on high-vacuum), a cold solution of NH3/i-PrOH (2M, 10 mL) was added, the suspension was filtered, and the solid was washed several times with i-PrOH. The filtrate was concentrated, extracted with CH2Cl2 (3×30 mL), washed with brine (50 mL), dried over MgSO4, filtered, and concentrated in vacuo. The crude material was dissolved in CH2Cl2, adsorbed onto Hydromatrix, and purified by chromatography on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with EtOAc:CH2Cl2 2%→5%], yielding the title compound, as a yellow solid; 1H NMR (CDCl3, 400 MHz) δ 1.26 (s, 9H), 7.33 (d, J=4.8 Hz, 1H), 7.44-7.50 (m, 1H), 7.50-7.58 (m, 2H), 7.87-7.94 (m, 4H), 8.17-8.22 (m, 2H), 8.24-8.30 (m, 1H), 8.51 (s, 1H); MS (ES+): m/z 412.9/414.9 (100/38) [MH+]; HPLC: tR=4.3 min (OpenLynx, polar—5 min).

reactant | N-[(3-chloropyrazin-2-yl)-(2-phenylquinolin-7-yl)-methyl]-2,2-dimethylpropionamide | 0.612 mmol, 264 mg | ClC=1C(=NC=CN1)C(NC(C(C)(C)C)=O)C1=CC=C2C=CC(=NC2=C1)C1=CC=CC=C1 | C25H23ClN4O
reactant | KOtBu | 0.796 mmol, 1 M, 800 μL | CC(C)(C)[O-].[K+]
reactant | POCl3 | 0.273 mol, 25 mL, 42 g | O=P(Cl)(Cl)Cl | Cl3OP
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-(3-tert-Butyl-8-chloroimidazo[1,5-a]pyrazin-1-yl)-2-phenylquinoline | C(C)(C)(C)C1=NC(=C2N1C=CN=C2Cl)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C25H21ClN4
